US06995144B2
1-(1-Benzyl-1,2,3,6-tetrahydropyridin-4-yl)-2-(2-fluoro-3-thienyl)ethanol
After dissolving 304 mg of 2-(2-fluoro-3-thienyl)-1-(4-pyridyl)ethanone in 2 ml of toluene, 0.20 ml of benzyl bromide was added, the mixture was stirred at 100° C. for 8 hours and the precipitate was filtered out. The filtered substance was dissolved in 10 ml of methanol, 157 mg of sodium borohydride was added thereto in small portions at a time while cooling on ice, and the mixture was stirred for 1 hour. The reaction solution was distilled off under reduced pressure, water was added and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (384 mg, 88% yield).

reactant | 2-(2-fluoro-3-thienyl)-1-(4-pyridyl)ethanone | 304 mg | FC=1SC=CC1CC(=O)C1=CC=NC=C1 | C11H8FNOS
reactant | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | benzyl bromide | 0.20 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | 1-(1-Benzyl-1,2,3,6-tetrahydropyridin-4-yl)-2-(2-fluoro-3-thienyl)ethanol | 384 mg, 88% yield | C(C1=CC=CC=C1)N1CCC(=CC1)C(CC1=C(SC=C1)F)O | C18H20FNOS
